US04030925
21. 3-(4-Cyanophenyl)-1[4-(2-formylhydrazino)phenyl]thiourea (NA-22)
Procedure (18.) was employed with 1-formyl-2-(4aminophenyl)hydrazine (1.5 g, 0.01 mole) and 4-cyanophenyl isothiocyanate (1.6 g, 0.01 mole). Yield 2.2, g (71%), m.p. 180°-182° C.

reactant | 1-formyl-2-(4aminophenyl)hydrazine | 0.01 mole, 1.5 g | C(=O)NNC1=CC=C(C=C1)N | C7H9N3O
reactant | 4-cyanophenyl isothiocyanate | 0.01 mole, 1.6 g | C(#N)C1=CC=C(C=C1)N=C=S | C8H4N2S
product | 3-(4-Cyanophenyl)-1[4-(2-formylhydrazino)phenyl]thiourea | C(#N)C1=CC=C(C=C1)NC(NC1=CC=C(C=C1)NNC=O)=S | C15H13N5OS
